US04628336
A 500 ml. four-necked flask equipped with a condenser tube and a thermometer are charged with 56 g of benzyl p-hydroxybenzoate, 25 g of triethylamine and 60 ml of toluene. A suspension of 25 g of terephthalic dichloride in 100 ml of toluene is added dropwise over 3 hours with stirring while maintaining the mixture at 0°-5° C. After the addition, the mixture is further allowed to react at 0°-5° C. for hour. Therefore the reaction product is collected by filtration to obtain while crystals. The crystals are washed twice with 1500 ml of water and then twice with 1000 ml of methanol and subsequently, recrystallized from chloroform to give di(p-benzyloxycarbonylphenyl)terephthalate melting at 186°-187° C. as white crystals.

reactant | benzyl p-hydroxybenzoate | 56 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | triethylamine | 25 g | C(C)N(CC)CC | C6H15N
reactant | terephthalic dichloride | 25 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | di(p-benzyloxycarbonylphenyl)terephthalate | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)OC(C1=CC=C(C(=O)OC2=CC=C(C=C2)C(=O)OCC2=CC=CC=C2)C=C1)=O | C36H26O8
